US09340546B2
TBTU (630.0 mg, 1.962 mmol) and dimethylamine (1.784 mL of 2 M, 3.568 mmol) were added to a solution of 4-[(3-nitro-4-pyridyl)oxy]cyclohexanecarboxylic acid (475 mg, 1.784 mmol) and DIPEA (253.6 mg, 341.8 μL, 1.962 mmol) in THF (9.500 mL) and the resulting solution was stirred at RT overnight. The reaction mixture was partitioned between EtOAc and water, and the combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography on silica eluting with 0-100% EtOAc/petroleum ether using the ISCO column companion system (12 g column) Clean fractions were combined and concentrated in vacuo to yield N,N-dimethyl-4-[(3-nitro-4-pyridyl)oxy]cyclohexanecarboxamide as a pale yellow oil. (180 mg, 34%). MS (ES+) 294.3.

reactant | TBTU | 1.962 mmol, 630.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dimethylamine | 3.568 mmol, 2 M, 1.784 mL | CNC | C2H7N
reactant | 4-[(3-nitro-4-pyridyl)oxy]cyclohexanecarboxylic acid | 1.784 mmol, 475 mg | [N+](=O)([O-])C=1C=NC=CC1OC1CCC(CC1)C(=O)O | C12H14N2O5
reactant | DIPEA | 1.962 mmol, 341.8 μL, 253.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 9.500 mL | C1CCOC1 | C4H8O
product | N,N-dimethyl-4-[(3-nitro-4-pyridyl)oxy]cyclohexanecarboxamide | CN(C(=O)C1CCC(CC1)OC1=C(C=NC=C1)[N+](=O)[O-])C | C14H19N3O4
